data/rdb19/train.csv
rxn,smiles,ea
4351,[C:16]([C:17]([C:18]([H:19])[O:20][C:21](=[O:22])[C:23]([H:29])([H:30])[H:31])([H:27])[H:28])([H:24])([H:25])[H:26].[C:1]([O:2][C:3](=[O:4])[C:5](=[C:6]([H:11])[H:12])[C:7]([H:13])([H:14])[H:15])([H:8])([H:9])[H:10]>>[C:1]([O:2][C:18]([C:17]([C:16]([H:24])([H:25])[H:26])([H:27])[H:28])([H:19])[O:20][C:21](=[O:22])[C:23]([H:29])([H:30])[H:31])([H:8])([H:9])[H:10].[C:3](=[O:4])[C:5](=[C:6]([H:11])[H:12])[C:7]([H:13])([H:14])[H:15],47.49714493739884
141,[C:12]([O:13][C:14](=[C:15]([H:20])[H:21])[H:19])([H:16])([H:17])[H:18].[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[C:4]#[N:5])([H:6])([H:7])[H:8]>>[C:12]([O:13][C:14](=[C:15]([H:20])[H:21])[H:19])([H:17])[H:18].[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([C:4]#[N:5])[H:16])([H:6])([H:7])[H:8],28.502858982625185
4116,[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])[C:5](=[O:6])[O:7][C:8]([H:17])([H:18])[H:19])([H:12])[H:13])([H:9])([H:10])[H:11].[C:20](=[C:21]([c:22]1[c:23]([H:31])[c:24]([H:32])[c:25]([H:33])[c:26]([H:34])[c:27]1[H:35])[H:30])([H:28])[H:29]>>[C:1]([C:2]([C:3](=[C:4]([H:14])[H:16])[C:5](=[O:6])[O:7][C:8]([H:17])([H:18])[H:19])([H:12])[H:13])([H:9])([H:10])[H:11].[H:15][C:21]([C:20]([H:28])[H:29])([c:22]1[c:23]([H:31])[c:24]([H:32])[c:25]([H:33])[c:26]([H:34])[c:27]1[H:35])[H:30],39.11003234697273
9,[C:1]([C:2]([H:3])([H:4])[O:5][O:6][H:7])([H:8])([C:9]([H:11])([H:12])[O:14][O:13])[H:10]>>[C:1]([H:8])([C:9]([C:2]([H:3])([H:4])[O:5][O:6][H:7])([H:11])[H:12])([H:10])[O:13][O:14],76.78828240279108
4969,[C:15]([C:16](=[O:17])[O:18][C:19](=[C:20]([H:25])[H:26])[H:24])([H:21])([H:22])[H:23].[C:1]([C:2]([C:3]([H:4])[O:5][C:6]([H:12])([H:13])[H:14])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]1([H:4])[C:16]([C:15]([H:21])([H:22])[H:23])([O:18][C:19](=[C:20]([H:25])[H:26])[H:24])[O:17]1)([H:10])[H:11])([H:7])([H:8])[H:9].[O:5][C:6]([H:12])([H:13])[H:14],67.07069206458982
4759,[C:1]([H:2])([H:3])[H:4].[C:5]([C:6]([C:7]([C:8]([H:18])([H:19])[H:20])([N:9]([C:10](=[O:11])[H:22])[H:21])[H:17])([H:15])[H:16])([H:12])([H:13])[H:14]>>[C:1]([H:2])([H:3])([H:4])[C:5]([H:12])([H:13])[H:14].[C:6]([C:7]([C:8]([H:18])([H:19])[H:20])([N:9]([C:10](=[O:11])[H:22])[H:21])[H:17])([H:15])[H:16],57.11916224643937
433,[C:1]([O:2][O:3])([H:4])([H:5])[H:6].[C:7]([O:8][C:9](=[O:10])[C:11](=[C:12]([H:17])[H:18])[C:13]([H:19])([H:20])[H:21])([H:14])([H:15])[H:16]>>[C:1]([O:2])([H:4])([H:5])[H:6].[O-:3][O+:10]=[C:9]([O:8][C:7]([H:14])([H:15])[H:16])[C:11](=[C:12]([H:17])[H:18])[C:13]([H:19])([H:20])[H:21],80.28038612264208
1229,[C:1]([C:2](=[C:3]([H:4])[C:5](=[O:6])[O:7][H:13])[H:11])([H:8])([H:9])[H:10].[H:12][O:20][C:19]([N:18]([C:16]([C:15]([C:14]([H:21])([H:22])[H:23])([H:24])[H:25])([C:17]([H:27])([H:28])[H:29])[H:26])[H:30])[H:31]>>[C:1]([C:2]([C:3]([H:4])([C:5](=[O:6])[O:7][H:13])[C:19]([N:18]([C:16]([C:15]([C:14]([H:21])([H:22])[H:23])([H:24])[H:25])([C:17]([H:27])([H:28])[H:29])[H:26])[H:30])([O:20][H:12])[H:31])[H:11])([H:8])([H:9])[H:10],10.397395262436476
2491,[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([C:7]([H:16])([H:17])[H:18])([C:8]([C:9]([H:21])([H:22])[H:23])([H:19])[H:20])[H:15])([H:13])[H:14])([H:10])([H:11])[H:12].[O:24][H:25]>>[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([C:7]([H:16])[H:17])([C:8]([C:9]([H:21])([H:22])[H:23])([H:19])[H:20])[H:15])([H:13])[H:14])([H:10])([H:11])[H:12].[H:18][O:24][H:25],5.922134951862972
4087,[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])[C:5](=[O:6])[O:7][C:8]([H:17])([H:18])[H:19])([H:12])[H:13])([H:9])([H:10])[H:11].[C:20]([C:21]([C:22]([C:23]([H:36])([H:37])[H:38])([c:24]1[c:25]([H:39])[c:26]([H:40])[c:27]([H:41])[c:28]([H:42])[c:29]1[H:43])[H:35])([H:33])[H:34])([H:30])([H:31])[H:32]>>[C:1]([C:2]([C:3](=[C:4]([H:14])[H:16])[C:5](=[O:6])[O:7][C:8]([H:17])([H:18])[H:19])([H:12])[H:13])([H:9])([H:10])[H:11].[H:15][C:27]1([H:41])[C:26]([H:40])[C:25]([H:39])=[C:24]([C:22]([C:21]([C:20]([H:30])([H:31])[H:32])([H:33])[H:34])([C:23]([H:36])([H:37])[H:38])[H:35])[C:29]([H:43])=[C:28]1[H:42],44.52247684350005
1442,[C:10]([C:11]([C:12]([C:13]([H:22])([H:23])[H:24])[C:14](=[O:15])[O:16][H:25])([H:20])[H:21])([H:17])([H:18])[H:19].[O:1]([C:2](=[O:3])[C:4](=[C:5]([H:8])[H:9])[H:7])[H:6]>>[O:1]([C:2]1([C:12]([C:11]([C:10]([H:17])([H:18])[H:19])([H:20])[H:21])([C:13]([H:22])([H:23])[H:24])[C:14](=[O:15])[O:16][H:25])[O:3][C:4]1([C:5]([H:8])[H:9])[H:7])[H:6],44.98250042070868
2556,[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([C:7]([H:17])([H:18])[H:19])([C:8]([H:9])[H:10])[H:16])([H:14])[H:15])([H:11])([H:12])[H:13].[C:20]([O:21][C:22](=[O:23])[C:24](=[C:25]([H:30])[H:31])[C:26]([H:32])([H:33])[H:34])([H:27])([H:28])[H:29]>>[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([C:7]([H:17])([H:18])[H:19])([C:8]([H:9])([H:10])[C:20]([H:27])([H:28])[H:29])[H:16])([H:14])[H:15])([H:11])([H:12])[H:13].[O:21][C:22](=[O:23])[C:24](=[C:25]([H:30])[H:31])[C:26]([H:32])([H:33])[H:34],45.72703805513447
